US05098930
A mixture of (2RS, 4SR)-4-(3-benzyloxy-5-fluorophenyl)-4-hydroxy-2-methyltetrahydropyran (0.45 g) and dimethylformamide (5 ml) cooled in an ice bath, sodium hydride (0.068 g of a 55% w/w dispersion in mineral oil) was added and the mixture was stirred for 45 minutes. Methyl iodide (0.11 ml) was added and the mixture was stirred for 15 minutes. The ice bath was removed and the mixture was stirred at ambient temperature for 30 minutes. The mixture was poured into water (15 ml) and extracted with ethyl acetate (3×15 ml). The combined organic extracts were washed with a saturated aqueous sodium chloride solution, dried (MgSO4) and evaporated. The residue was purified by column chromatography using a 10:1 v/v mixture of toluene and ethyl acetate as eluent. There was thus obtained as an oil, (2RS, 4SR)-4-(3-benzyloxy-5-fluorophenyl)-4-methoxy-2-methyltetrahydropyran (0.33 g, 71%);

reactant | (2RS, 4SR)-4-(3-benzyloxy-5-fluorophenyl)-4-hydroxy-2-methyltetrahydropyran | 0.45 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CC(OCC1)C)O | C19H21FO3
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl iodide | 0.11 ml | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2RS, 4SR)-4-(3-benzyloxy-5-fluorophenyl)-4-methoxy-2-methyltetrahydropyran | 0.33 g, 71% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CC(OCC1)C)OC | C20H23FO3
